Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Altered Mental Status  

 
Major Surgical or Invasive Procedure:
None 

 
History of Present Illness:
Mr. ___ is an ___ male with history of dementia
(living in memory unit) who presents with altered mental status. 


 
Per history obtained in the ED, from patient's wife and 
daughter,
patient has been having more difficulty ambulating with his
walker for the last 2 days and has overall been weak. He had 
some
vomiting of clear sputum and was also noted to have 
___
urine and desquamation on the tip of his penis. He has not had
fevers, purulent sputum, or bloody stools. He has had 2 
minimally
traumatic falls recently.  

In the ED, initial vitals were: T:98.5 P:68 BP:109/61 R:17 O2
Sat:97% RA  
 
Exam was notable for:  
 - General: Minimally verbal  
 - Neck: Full ROM  
 - Respiratory: Minimal effort on respiratory exam  
 - GU: +desquamation at tip of penis  
 
Labs were notable for:  
 - WBC: 22.2, Neutrophilic predominance, Hgb: 12.2, BUN: 22,
Lactate: 1.8  
 - UA: Moderate blood, Positive nitrite, 100 protein, large
leukocytes, 106 RBC, >182 WBC, few bacteria, many clumps of WBC  

 Studies were notable for:  
 - CXR:  
 
Increased opacity in the right infrahilar region, behind the
heart which could potentially be a focal consolidation or be due
to atelectasis. Probable moderate hiatal hernia. Small right
pleural effusion. PA and lateral views are suggested if patient
is amenable to further clarify these findings.  
 - CT Head w/o Contrast:  No evidence of acute intracranial
abnormality, although there were technical limitations to study. 


 - EKG: Sinus rhythm with old RBBB  
 
The patient was given:  
- Azithromycin, Ceftriaxone, 2 L LR    
 
Per HPI, otherwise, ___ review of systems was within normal
limits. 
 
Past Medical History:
-___ dementia ___ late onset Alzhiemer's disease 
-Essential tremor 
-Multifactorial gait disorder 
-History of HTN per chart review, not on medications 
-Dysthymia, started on SSRI in ___
-Basal cell carcinoma, seborrhetic kerotosis
-GERD
 
 
Social History:
___
___ History:
Brother: ___ Cancer  
Father: Lung Cancer 
 
Physical Exam:
ADMISSION PHYSICAL EXAM:
=======================
VITALS:  24 HR Data (last updated ___ @ 158)
    Temp: 98.2 (Tm 98.2), BP: 135/78, HR: 65, RR: 20, O2 sat:
95%, O2 delivery: Ra, Wt: 163.8 lb/74.3 kg  
GENERAL: Lying in bed, no acute distress 
HEENT: Pupils equal, no scleral icterus, moist mucous membranes.
Some red scaling skin on temple.   
CARDIAC: S1/S2 regular with no murmurs, rubs or S3/S4.  
LUNGS: Limited exam, but no obvious rales, wheezes or ronchi.
Patient not coughing. No increased work of breathing, no use of
accessory muscles. 
BACK: No CVA tenderness.  
ABDOMEN: Soft, ___. 
GU: Distal portion of penis is erythematous without drainage,
skin blanches, no obvious desquamation. 
EXTREMITIES: Warm extremities. No lower extremity edema. 
NEUROLOGIC: Awake, responding to basic questions appropriately.
Unable to follow commands such as taking a deep breath. Moving
all extremities. 

DISCHARGE PHYSICAL EXAM:
=======================
GENERAL: Lying in bed, no acute distress 
HEENT: moist mucous membranes. Some red scaling skin on temple
and bilateral cheeks. 
CARDIAC: S1/S2 regular with no murmurs, rubs or S3/S4.  
LUNGS: Limited exam, but no obvious rales, wheezes or ronchi.
Patient not coughing. No increased work of breathing, no use of
accessory muscles. 
ABDOMEN: Soft, ___. 
EXTREMITIES: Warm extremities. No lower extremity edema. 
NEUROLOGIC: Awake. Unable to follow commands such as taking a
deep breath. Moving all extremities. 
Skin: 0.5 cm erythematous patch on dorsal side of penile glans.
 
Pertinent Results:
ADMISSION LABS:
===============
___ 04:32PM BLOOD ___ 
___ Plt ___
___ 04:32PM BLOOD ___ 
___ Im ___ 
___
___ 04:32PM BLOOD ___ 
___
___ 04:44PM BLOOD ___

NOTABLE LABS:
============
___ 08:54AM BLOOD ___ 
___ Plt ___
___ 06:40AM BLOOD ___ 
___ Plt ___
___ 06:40AM BLOOD ___ 
___ Plt ___

MICROBIOLOGY:
=============
Blood culture ___: No growth to date. 
Urine culture ___:    
ESCHERICHIA COLI
AMPICILLIN------------   <=2 S
AMPICILLIN/SULBACTAM--   <=2 S
CEFAZOLIN-------------   <=4 S
CEFEPIME--------------   <=1 S
CEFTAZIDIME-----------   <=1 S
CEFTRIAXONE-----------   <=1 S
CIPROFLOXACIN---------<=0.25 S
GENTAMICIN------------   <=1 S
MEROPENEM-------------<=0.25 S
NITROFURANTOIN--------  <=16 S
PIPERACILLIN/TAZO-----   <=4 S
TOBRAMYCIN------------   <=1 S
TRIMETHOPRIM/SULFA----   <=1 S

IMAGING:
========
CXR ___: 
Increased opacity in the right infrahilar region, behind the 
heart which could potentially be a focal consolidation or be due 
to atelectasis. Probable  moderate hiatal hernia.  Small right 
pleural effusion.  PA and lateral views are suggested if patient 
is amenable to further clarify these findings. 

CT Head w/o Contrast ___:
IMPRESSION:  
Study is severely limited in the setting of motion artifact. Of 
note, the scan does not extend high enough to include the 
entirety of the head, as the vertex is not visualized on the 
current study. Within these limitations, there is no evidence of 
acute intracranial abnormality. 

CT Head w/o Contrast ___:
IMPRESSION:  
No acute intracranial abnormality. 

DISCHARGE LABS:
===============
___ 08:26AM BLOOD ___ 
___ Plt ___
___ 08:26AM BLOOD ___ 
___
___ 08:26AM BLOOD ___

 
Brief Hospital Course:
TRANSITIONAL ISSUES:
===================
[]Continue taking Bactrim PO daily until ___. 
[]Continue Nystatin ointment for penile lesion with wound care 
recs listed separately.

BRIEF HOSPITAL COURSE:
=====================
Mr. ___ is an ___ male with history of dementia 
(living in memory unit) who presents with altered mental status, 
found to have a UTI and was started on antibiotics. 
 
# Altered Mental Status 
# UTI
# Possible pneumonia
# Leukocytosis  
Concern for infection/sepsis given significant leukocytosis and 
new encephalopathy on admission. Initially with WBC 22.8 on 
admission and somewhat hypotensive in the ED but responded to 
IVF. Patient was empirically started on azithromycin and 
ceftriaxone due to concern for UTI vs pneumonia, but was 
narrowed to Bactrim PO x 7 days once urine culture grew E.coli. 
Per family, patient is back to baseline. WBC on discharge ___: 
6.6. 

#Fall
Patient with unwitnessed fall ___ night. CT head normal. No 
spinal tenderness. Moves all extremities.   

# Erythematous penis
Noted to have some erythema and thick yellow drainage on penile 
shaft, thought to be possibly fungal and patient was started on 
nystatin cream BID. Rash improving. Wound care consulted and 
recommended no diapers and using large Sofsorb pads under 
patient to wick moisture from skin. No Rinse foam cleanser and 
disposable wash cloths. Pat tissue dry. Apply a thin layer of 
Critic Aid Clear daily and every third cleansing.

#Insomnia
Continued home gabapentin 100mg QHS  
 
#DEMENTIA  
Secondary to Alzheimer's. Recently established with Geriatrics
here. 
 
#DEPRESSION  
Continued home Sertraline 50mg daily 

#CODE: DNR/DNI
#HCP: Daughter, ___ 
#CONTACT: Next of Kin: ___, Relationship: WIFE, 
Phone:
___ Next of Kin: ___, Phone: 
___

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Sertraline 50 mg PO DAILY 
2. Gabapentin 100 mg PO QHS 
3. Melatin (melatonin) 3 mg oral QHS 
4. Acetaminophen 500 mg PO DAILY:PRN Pain - Mild/Fever 

 
Discharge Medications:
1.  Nystatin Ointment 1 Appl TP BID  
2.  Sulfameth/Trimethoprim DS 1 TAB PO BID Duration: 7 Days 
Please continue until ___.   
3.  Acetaminophen 500 mg PO DAILY:PRN Pain - Mild/Fever  
4.  Gabapentin 100 mg PO QHS  
5.  Melatin (melatonin) 3 mg oral QHS  
6.  Sertraline 50 mg PO DAILY  

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
PRIMARY DIAGNOSIS:
==================
Urinary tract infection

SEONDARY DIAGNOSIS:
===================
Alzheimer Dementia 

 
Discharge Condition:
Mental Status: Confused - always.
Level of Consciousness: Lethargic but arousable.
Activity Status: Out of Bed with assistance to chair or 
wheelchair.

 
Discharge Instructions:
Dear Mr. ___, 
 
It was a privilege caring for you at ___.  

WHY WAS I IN THE HOSPITAL?  
- You were in the hospital because you were having an 
increasingly hard time walking and were noted to seem weak. You 
also were having some ___ urine. 

WHAT HAPPENED TO ME IN THE HOSPITAL?  
- In the hospital, we diagnosed you with a urinary tract 
infection and started you on antibiotics. 
- You also had a fall and we checked a CT scan of your head 
which was normal.   

WHAT SHOULD I DO AFTER I LEAVE THE HOSPITAL?  
- Please continue to take all of your medications and ___ 
with your appointments as listed below.
- Specifically, continue taking the Bactrim until ___.  

We wish you the best!  

Sincerely,  
Your ___ Team  

 
Followup Instructions:
___